US09079916B2
Preparation of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5,6-dihydrofuro[2,3-h]quinazolin-2-yl)cyclopropanecarboxamide
To 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (45 mg, 0.2 mmol) in pyridine (2 mL) was added 5,6-dihydrofuro[3,2-f]quinazolin-3-amine (37 mg, 0.2 mmol) and the reaction mixture was stirred at 115° C. for 15 hours. The solvent was evaporated to dryness and the residue redissolved in DMF, filtered and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product. ESI-MS m/z calc. 375.4. Found 375.1 (M+1)+. Retention time 2.61 minutes.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.2 mmol, 45 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | 5,6-dihydrofuro[3,2-f]quinazolin-3-amine | 0.2 mmol, 37 mg | C1=NC(=NC=2CCC3=C(C12)C=CO3)N | C10H9N3O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5,6-dihydrofuro[2,3-h]quinazolin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC=1C3=C(CCC1C=N2)OC=C3 | C21H17N3O4
